US06320050B1
A solution of 3-cyclopentyl-2-(4-methanesulfonylphenyl)propionic acid methyl ester (50.96 g, 0.16 mol) in methanol (410 mL) was treated with a 1 N aqueous sodium hydroxide solution (345 mL, 0.35 mol). The reaction mixture was stirred at 25° C. for 24 h. The reaction mixture was concentrated in vacuo to remove methanol. The resulting aqueous residue was acidified to pH=2 with concentrated hydrochloric acid and then extracted with ethyl acetate (5×200 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to afford pure 3-cyclopentyl-2-(4-methanesulfonylphenyl)propionic acid (43.61 g, 90%) as a white solid which was used without further purification: mp 152-154° C.; EI-HRMS m/e calcd for C15H20O4S (M+) 296.1082, found 296.1080.

reactant | 3-cyclopentyl-2-(4-methanesulfonylphenyl)propionic acid methyl ester | 0.16 mol, 50.96 g | COC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C16H22O4S
reactant | sodium hydroxide | 0.35 mol, 1 N, 345 mL | [OH-].[Na+]
solvent | methanol | 410 mL | CO | CH4O
product | 3-cyclopentyl-2-(4-methanesulfonylphenyl)propionic acid | 43.61 g, 90% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)S(=O)(=O)C | C15H20O4S
